US08377957B2
THF (50 mL) and 1,1′-carbonyldiimidazole (4.2 g, 26 mmol) were sequentially added to a solution of 2-chloro-N4-(tetrahydro-2H-pyran-4-ylmethyl)quinoline-3,4-diamine (5 g, 17 mmol) in pyridine (50 mL), and the reaction was heated at 90° C. overnight. The reaction was cooled to approximately 0° C., and water (400 mL) was added. The mixture was stirred for 30 minutes. A precipitate was present and was isolated by filtration and washed with water and diethyl ether to provide 4 g of 4-chloro-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol. A small portion of the product was triturated with hot acetonitrile, isolated by filtration, and washed with cold acetonitrile and diethyl ether to provide beige needles with the following analytical data, mp greater than 275° C.

reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | 1,1′-carbonyldiimidazole | 26 mmol, 4.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-chloro-N4-(tetrahydro-2H-pyran-4-ylmethyl)quinoline-3,4-diamine | 17 mmol, 5 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC1CCOCC1 | C15H18ClN3O
reactant | water | 400 mL | O | H2O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 4-chloro-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol | 4 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2CCOCC2)O | C16H16ClN3O2
